US08138197B2
Methyl 4-bromo-3-methoxy-5-{[(trifluoromethyl)sulfonyl]oxy}benzoate
In a 1-liter egg plant-type flask, methyl iodide (6.67 mL, 105 mmol) was added to a DMF (200 mL) solution of methyl 4-bromo-3-hydroxy-5-{[(trifluoromethyl)sulfonyl]oxy}benzoate (19.9 g) and potassium carbonate (14.5 g, 105 mmol), and stirred at room temperature for 4 hours. The reaction solution was diluted with ethyl acetate, washed with water and saturated saline water, dried with sodium sulfate, filtered, and concentrated to obtain a crude product. This was purified through silica gel column chromatography (Biotage [SiO2, 40+M]) with a hexane/ethyl acetate developer system to obtain the title compound as a colorless solid.

reactant | methyl iodide | 105 mmol, 6.67 mL | CI | CH3I
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
reactant | methyl 4-bromo-3-hydroxy-5-{[(trifluoromethyl)sulfonyl]oxy}benzoate | 19.9 g | BrC1=C(C=C(C(=O)OC)C=C1OS(=O)(=O)C(F)(F)F)O | C9H6BrF3O6S
reactant | potassium carbonate | 105 mmol, 14.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-bromo-3-methoxy-5-{[(trifluoromethyl)sulfonyl]oxy}benzoate | BrC1=C(C=C(C(=O)OC)C=C1OS(=O)(=O)C(F)(F)F)OC | C10H8BrF3O6S
